US08030487B2
Synthesis of 2-Chloro-5-(4-Cyano-Benzoylamino)-Benzoic Acid (Intermediate 16)
5-Amino-2-chloro-benzoic acid (0.355 g, 2.06 mmol) was diluted with THF (12 mL), treated with 4-cyano-benzoyl chloride (0.377 g, 2.23 mmol) and stirred for 72 h. Solvents were then removed and resulting solids were triturated with DCM. After filtration, the title compound was obtained as a white solid (0.6 g, 97%).

reactant | 5-Amino-2-chloro-benzoic acid | 2.06 mmol, 0.355 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 4-cyano-benzoyl chloride | 2.23 mmol, 0.377 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-(4-Cyano-Benzoylamino)-Benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O | C15H9ClN2O3
